US07776867B2
Step 2: Preparation of N-isopropyl-5-phenylfuro[2,3-d]pyrimidin-4-amine (19)
Into a 50 mL round bottom flask was placed 4-chloro-5-phenylfuro[2,3-d]pyrimidine, isopropanol (25 mL), and isopropylamine (1.5 g, 25 mmol). The flask was equipped with a magnetic stir bar, a reflux condenser, and argon balloon and the reaction was brought to reflux with stirring for 20 hours.

reactant | 4-chloro-5-phenylfuro[2,3-d]pyrimidine | ClC=1C2=C(N=CN1)OC=C2C2=CC=CC=C2 | C12H7ClN2O
reactant | isopropylamine | 25 mmol, 1.5 g | C(C)(C)N | C3H9N
solvent | isopropanol | 25 mL | C(C)(C)O | C3H8O
product | N-isopropyl-5-phenylfuro[2,3-d]pyrimidin-4-amine | C(C)(C)NC=1C2=C(N=CN1)OC=C2C2=CC=CC=C2 | C15H15N3O
